US05874472
To a stirred solution of ethyl 3-(5-nitro-2-thienyl)-DL alaninate (16.0 g 65.5 mmol) in dichloromethane (200 ml) at 0° C. was added triethylamine (7.26 g, 71.7 mmol) followed by di-tert-butyl dicarbonate (16.3 g,74.7 mmol) The mixture was allowed to warm to room termperature and stirred overnight. The mixture was poured into water and extracted twice with dichloromethane. The combined organic layers were washed with brine and dried over magnesium sulphate. The solvent was removed at reduced pressure. The crude product was chromatographed on silica gel eluting with 1:3 ethyl acetate: hexane to give a dark brown oil. This oil was cystallized from ethyl acetate/hexane at -78° C. to provide 14.9 g of ethyl N-(tert-butoxycarbonyl)-3-(5-nitro-2-thienyl)-DL-alaninate as a pale yellow solid. The mother liquor was concentrated at reduced pressure and purified by silica gel chromatography eluting with 1:3 ethyl acetate:hexane to provide an additional 2.53 g of solid for a total yield of 17.4 g (59%) of desired product. Melting point=59° C.

reactant | ethyl 3-(5-nitro-2-thienyl)-DL alaninate | 65.5 mmol, 16.0 g | [N+](=O)([O-])C1=CC=C(S1)CC(N)C(=O)OCC | C9H12N2O4S
reactant | triethylamine | 71.7 mmol, 7.26 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 74.7 mmol, 16.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl N-(tert-butoxycarbonyl)-3-(5-nitro-2-thienyl)-DL-alaninate | 14.9 g | C(C)(C)(C)OC(=O)NC(CC=1SC(=CC1)[N+](=O)[O-])C(=O)OCC | C14H20N2O6S
